US06506758B2
Description 4: 4-(5,6-Dichloro-1H-indol-2-yl)benzoic acid
A solution of methyl 4-(5,6-dichloro-1H-indol-2-yl)benzoate (0.86 g, 2.7 mmol) and KOH (0.36 g, 6.4 mmol) in a mixture of EtOH (15 ml) and water (15 ml) was refluxed for 3 h. After concentration of the ethanol, the solution was acidified and extracted with ethyl acetate. The organic phase was washed with water, dried over MgSO4 and concentrated in vacuo to afford 0.58 g (1.8 mmol, yield 70%) of the acid used without further purification.

reactant | methyl 4-(5,6-dichloro-1H-indol-2-yl)benzoate | 2.7 mmol, 0.86 g | ClC=1C=C2C=C(NC2=CC1Cl)C1=CC=C(C(=O)OC)C=C1 | C16H11Cl2NO2
reactant | KOH | 6.4 mmol, 0.36 g | [OH-].[K+]
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | water | 15 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-(5,6-Dichloro-1H-indol-2-yl)benzoic acid | 1.8 mmol, 0.58 g, yield 70% | ClC=1C=C2C=C(NC2=CC1Cl)C1=CC=C(C(=O)O)C=C1 | C15H9Cl2NO2
